US07977344B2
8-(Methoxy)-2-[(tetrahydro-2-furanylmethyl)oxy]-9-(tetrahydro-2H-Pyran-2-yl)-9H-purin-6-amine
8-Bromo-2-[(tetrahydro-2-furanylmethyl)oxy]-9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-amine (1.3748 g) was dissolved in methanol (10.2 mL) and treated with 25% (w/v) sodium methoxide in methanol (2.2 mL). This was heated to reflux under nitrogen for 3.5 hours. The reaction mixture was evaporated under reduced pressure to dryness and saturated ammonium chloride solution was added (100 mL). This was then extracted with ethyl acetate (100 mL, 3 times). The organic layers were combined and washed with brine (100 mL) and then dried by passing through a hydrophobic frit after separating the aqueous layer. The organic was evaporated under reduced pressure to give the title compound as white foam (1.1614 g) and used in the next stage without requiring purification.

reactant | 8-Bromo-2-[(tetrahydro-2-furanylmethyl)oxy]-9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-amine | 1.3748 g | BrC=1N(C2=NC(=NC(=C2N1)N)OCC1OCCC1)C1OCCCC1 | C15H20BrN5O3
reactant | sodium methoxide | C[O-].[Na+]
solvent | methanol | 10.2 mL | CO | CH4O
solvent | methanol | 2.2 mL | CO | CH4O
product | 8-(Methoxy)-2-[(tetrahydro-2-furanylmethyl)oxy]-9-(tetrahydro-2H-Pyran-2-yl)-9H-purin-6-amine | 1.1614 g | COC=1N(C2=NC(=NC(=C2N1)N)OCC1OCCC1)C1OCCCC1 | C16H23N5O4
